** sch_path: /foss/designs/thesis/tapeout_hp/Error_amplifier_block/design_data/xschem/tb_ota_final_ac.sch
**.subckt tb_ota_final_ac
Vss v_ss GND 0
Vdd v_dd GND 1.55
Vin v_in v_ss dc 0.7 ac 1
.save v(v_in)
I0 v_dd net1 14u
.save v(v_out)
x1 v_dd net1 v_out v_out v_in v_ss FMD_QNC_ota_final_esd
**** begin user architecture code




.temp 27
.control
option sparse
save all
op
write tb_foldedcascode_nmos_ac.raw
set appendwrite

ac dec 101 1k 1G
write tb_foldedcascode_nmos_ac.raw
plot 20*log10(v_out)



meas ac dcgain MAX vmag(v_out) FROM=10 TO=10k
let f3db = dcgain/sqrt(2)
meas ac fbw WHEN vmag(v_out)=f3db FALL=1
let gainerror=(dcgain-1)/1
print dcgain
print fbw
print gainerror



plot 180/pi*ph(v_out) vs frequency

noise v(v_out) Vin dec 101 1k 100MEG
print onoise_total

.endc


 .lib cornerMOSlv.lib mos_tt
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib cap_typ
.include /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/sg13g2_bondpad.lib
.include /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/sg13g2_esd.lib

**** end user architecture code
**.ends

* expanding   symbol:  FMD_QNC_ota_final_esd.sym # of pins=6
** sym_path: /foss/designs/thesis/tapeout_hp/Error_amplifier_block/design_data/xschem/FMD_QNC_ota_final_esd.sym
** sch_path: /foss/designs/thesis/tapeout_hp/Error_amplifier_block/design_data/xschem/FMD_QNC_ota_final_esd.sch
.subckt FMD_QNC_ota_final_esd AVDD IBIAS VOUT MINUS PLUS AVSS
*.ipin AVSS
*.ipin IBIAS
*.ipin AVDD
*.ipin PLUS
*.ipin MINUS
*.opin VOUT
XM23 IBIAS IBIAS AVSS AVSS sg13_lv_nmos w=8.5u l=5u ng=4 m=1
XM24 net7 IBIAS AVSS AVSS sg13_lv_nmos w=8.5u l=5u ng=4 m=1
XM11 net7 net2 net1 AVDD sg13_lv_pmos w=14u l=2u ng=4 m=1
XM12 net1 net1 AVDD AVDD sg13_lv_pmos w=14u l=2u ng=4 m=1
XM18 AVSS net2 net5 AVDD sg13_lv_pmos w=14u l=0.5u ng=4 m=1
XM17 net5 net1 AVDD AVDD sg13_lv_pmos w=14u l=2u ng=4 m=1
XM9 net4 net1 AVDD AVDD sg13_lv_pmos w=14u l=2u ng=4 m=1
XM5 net2 net5 net4 AVDD sg13_lv_pmos w=14u l=2u ng=4 m=1
XM7 net2 net12 net3 AVSS sg13_lv_nmos w=3u l=2u ng=2 m=1
XM3 net3 net2 AVSS AVSS sg13_lv_nmos w=3u l=2u ng=2 m=1
XM30 net6 IBIAS AVSS AVSS sg13_lv_nmos w=8.5u l=5u ng=4 m=1
XM1 net4 PLUS net6 AVSS sg13_lv_nmos w=6u l=1u ng=2 m=1
XM2 net8 MINUS net6 AVSS sg13_lv_nmos w=6u l=1u ng=2 m=1
XM37 net8 AVSS AVSS AVSS sg13_lv_nmos w=6u l=1u ng=2 m=1
XM6 VOUT net5 net8 AVDD sg13_lv_pmos w=14u l=2u ng=4 m=1
XM0 net8 net1 AVDD AVDD sg13_lv_pmos w=14u l=2u ng=4 m=1
XM8 VOUT net12 net9 AVSS sg13_lv_nmos w=3u l=2u ng=2 m=1
XM4 net9 net2 AVSS AVSS sg13_lv_nmos w=3u l=2u ng=2 m=1
XM29 net9 AVSS AVSS AVSS sg13_lv_nmos w=3u l=2u ng=2 m=1
XM28 VOUT AVSS AVSS AVSS sg13_lv_nmos w=3u l=2u ng=2 m=1
XM32 net8 AVDD AVDD AVDD sg13_lv_pmos w=14u l=2u ng=4 m=1
XM33 VOUT AVDD AVDD AVDD sg13_lv_pmos w=7u l=2u ng=2 m=1
XM13 net10 net1 AVDD AVDD sg13_lv_pmos w=14u l=2u ng=4 m=1
XM15 net10 VOUT net11 AVSS sg13_lv_nmos w=3u l=2u ng=2 m=1
XM16 net11 net11 AVSS AVSS sg13_lv_nmos w=3u l=2u ng=2 m=1
XM14 net12 net11 AVSS AVSS sg13_lv_nmos w=3u l=2u ng=2 m=1
XM10 AVDD VOUT net12 AVSS sg13_lv_nmos w=15u l=0.5u ng=4 m=1
XM36 net4 AVSS AVSS AVSS sg13_lv_nmos w=6u l=1u ng=2 m=1
XM34 net2 AVDD AVDD AVDD sg13_lv_pmos w=7u l=2u ng=2 m=1
XM27 net3 AVSS AVSS AVSS sg13_lv_nmos w=3u l=2u ng=2 m=1
XM26 net2 AVSS AVSS AVSS sg13_lv_nmos w=3u l=2u ng=2 m=1
XM35 net1 AVDD AVDD AVDD sg13_lv_pmos w=7u l=2u ng=2 m=1
XM31 net11 AVSS AVSS AVSS sg13_lv_nmos w=3u l=2u ng=2 m=1
XC2 VOUT AVSS cap_cmim w=25.82e-6 l=25.82e-6 m=1
XX1 VOUT bondpad size=80u shape=0 padtype=0
XD1 AVDD VOUT AVSS diodevdd_2kv m=1
XD2 AVDD VOUT AVSS diodevss_2kv m=1
XD3 AVDD AVDD AVSS diodevdd_2kv m=1
XD4 AVDD AVDD AVSS diodevss_2kv m=1
XD5 AVDD AVSS AVSS diodevdd_2kv m=1
XD6 AVDD AVSS AVSS diodevss_2kv m=1
XX2 AVSS bondpad size=80u shape=0 padtype=0
XX3 AVDD bondpad size=80u shape=0 padtype=0
XD7 AVDD IBIAS AVSS diodevdd_2kv m=1
XD8 AVDD IBIAS AVSS diodevss_2kv m=1
XX4 IBIAS bondpad size=80u shape=0 padtype=0
XD9 AVDD PLUS AVSS diodevdd_2kv m=1
XD10 AVDD PLUS AVSS diodevss_2kv m=1
XX5 PLUS bondpad size=80u shape=0 padtype=0
XX6 MINUS bondpad size=80u shape=0 padtype=0
XD11 AVDD MINUS AVSS diodevdd_2kv m=1
XD12 AVDD MINUS AVSS diodevss_2kv m=1
.ends

.GLOBAL GND
.end
